US05272163
N-[4-(Phenylsulfonyl)phenyl]-3,3,3,-trifluoro-2-hydroxy-2-methylpropanamide
To a stirred, cooled (-20° C.) solution of 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (3.96 g 25 mmol) in N,N-dimethylacetamide (36 mL) was rapidly added thionyl chloride (3.10 g, 26 mmol) and the mixture (a precipitate formed after a few minutes) stirred at -15° C. to -5° C. for 1 hour. 4-(Phenylsulfonyl)benzenamine (3.97 g, 17 mmol) was then added in one portion and the mixture allowed to stir at room temperature overnight. The solution was poured into water, the resulting solid was filtered off, washed with 3N HCl, then water and dried at 65° C. for 2 hours. The solid was dissolved in 300 mL of refluxing methylene chloride and stirred and heated as hexane was added to replace the methylene chloride as it boiled off. When 250 mL of hexane had been added (precipitate formed at about 180 mL addition) the mixture was concentrated to 250 mL and refrigerated. The yield of light tan solid was 5.92 g (93%), mp 164°-166° C. 1H--NMR (250 MHz, d6 --DMSO): 1.59 (s, 3H, CH3), 7.57-7.72 (m, 4H, OH, aromatic), 7.92-8.04 (m, 6H, aromatic), 10.43 (s, 1H, NH).

reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 25 mmol, 3.96 g | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | thionyl chloride | 26 mmol, 3.10 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(Phenylsulfonyl)benzenamine | 17 mmol, 3.97 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H11NO2S
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 36 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(Phenylsulfonyl)phenyl]-3,3,3,-trifluoro-2-hydroxy-2-methylpropanamide | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)(F)F)(C)O)=O | C16H14F3NO4S
